US06395897B1
NH4OH (4 mL) was added to a premixed (15 min) solution of N-(t-butoxycarbonyl)-L-homophenylalanine (4.00 g, 14.3 mmol), EDC (3.24 g, 17.2 mmol). and HOBT (2.32 g, 17.2 mmol) in DMF (20 mL) at room temperature. After 16 h the reaction mixture was diluted with CH2Cl2 and filtered, washed sequentially with 10% aqueous HCl, satd. NaHCO3, H2O (×3), brine, dried over Na2SO4, and concentrated giving N-(t-butoxycarbonyl)-L-homophenylalaninamide (3.10 g, 78%) as a white solid.

reactant | NH4OH | 4 mL | [NH4+].[OH-]
reactant | N-(t-butoxycarbonyl)-L-homophenylalanine | 14.3 mmol, 4.00 g | C(C)(C)(C)OC(=O)N[C@@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | EDC | 17.2 mmol, 3.24 g
reactant | HOBT | 17.2 mmol, 2.32 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(t-butoxycarbonyl)-L-homophenylalaninamide | 3.10 g, 78% | C(C)(C)(C)OC(=O)NC([C@@H](N)CCC1=CC=CC=C1)=O | C15H22N2O3
